US08530470B2
Methyl 2-morpholino-4-oxo-8-[(2R)-pyrrolidin-2-yl]chromene-6-carboxylate, preparation described in Example 1.03b, 125 mg, 0.35 mmol) was reacted with 1-bromo-3-methoxybenzene (0.049 ml, 0.38 mmol) using a procedure similar to that described in Example 1.0 to afford methyl 8-[(2R)-(1-(3-methoxyphenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylate (90 mg, 56%) as a yellow gum. Mass Spectrum: m/z [M+H]+=465.

reactant | Methyl 2-morpholino-4-oxo-8-[(2R)-pyrrolidin-2-yl]chromene-6-carboxylate | O1CCN(CC1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)OC)[C@@H]1NCCC1 | C19H22N2O5
reactant | 1-bromo-3-methoxybenzene | 0.38 mmol, 0.049 ml | BrC1=CC(=CC=C1)OC | C7H7BrO
product | methyl 8-[(2R)-(1-(3-methoxyphenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 90 mg, 56% | COC=1C=C(C=CC1)N1[C@H](CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC | C26H28N2O6
